US07138533B2
tert-Butyl 2-(2-chlorophenyl)ethyl[5-(1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-5-hydroxypentyl]carbamate
95 mg of Sodium tetrahydroborate was added to a solution of tert-butyl 2-(2-chlorophenyl)ethyl[5-(1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-5-oxopentyl]carbamate obtained in Reference Example 60 in methanol (10 ml) at room temperature. After stirring at room temperature for 2 hours, 20 ml of an aqueous saturated ammonium chloride solution was added. The liberated oil was extracted with chloroform (30 ml×2), dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound as a pale yellow oil (1.25 g).

reactant | Sodium tetrahydroborate | 95 mg | [BH4-].[Na+]
reactant | tert-butyl 2-(2-chlorophenyl)ethyl[5-(1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-5-oxopentyl]carbamate | ClC1=C(C=CC=C1)CCN(C(OC(C)(C)C)=O)CCCCC(=O)C1=CC2=C(N(C(N2C)=O)C)C=C1 | C27H34ClN3O4
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | tert-Butyl 2-(2-chlorophenyl)ethyl[5-(1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-5-hydroxypentyl]carbamate | 1.25 g | ClC1=C(C=CC=C1)CCN(C(OC(C)(C)C)=O)CCCCC(O)C1=CC2=C(N(C(N2C)=O)C)C=C1 | C27H36ClN3O4
